US08138185B2
Acetyl chloride (3.0 eq) was added drop wise to ethanol and stirred for additionally 30 min after completed addition. 3-(2-Amino-thiazol-5-ylsulfanyl)-2,2-dimethyl-propionic acid was added neat to this solution and the mixture was stirred at 50° C. for 18 h. The mixture was concentrated under reduced pressure and diluted with ethyl acetate and water. The strongly acidic solution was added NaHCO3 (aq; sat) to pH=8. The phases were separated and the aqueous phase extracted with additional ethyl acetate. The combined org. phases were washed with water and brine, dried (MgSO4), filtered and evaporated under reduced pressure to give 3-(2-amino-thiazol-5-ylsulfanyl)-2,2-dimethyl-propionic acid ethyl ester as brown crystals.

reactant | Acetyl chloride | 3.0 eq | C(C)(=O)Cl | C2H3ClO
reactant | 3-(2-Amino-thiazol-5-ylsulfanyl)-2,2-dimethyl-propionic acid | NC=1SC(=CN1)SCC(C(=O)O)(C)C | C8H12N2O2S2
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-amino-thiazol-5-ylsulfanyl)-2,2-dimethyl-propionic acid ethyl ester | C(C)OC(C(CSC1=CN=C(S1)N)(C)C)=O | C10H16N2O2S2
